US04889553
N-(2,6-difluorophenyl)-1-(4,6-dimethyl-2-pyrimidinyl)-5-methyl-1,2,4-triazole-3-sulphonamide (Compound F1)
N-(2,6-difluorophenyl)-5-methyl-1,2,4-triazole-3-sulphonamide (5 g) (Compound A81) was added in portions to a suspension of sodium hydride (1.37 g in 80% suspension in oil) in dry dimethylformamide (40 ml). The mixture was stirred for 30 minutes at 25° C., 4,6-dimethyl-2-chloropyrimidine (2.6 g) was added, and the mixture was then stirred at 100° C. for 18 hours. The cooled reaction mixture was poured into water, acidified with glacial acetic acid and then extracted with dichloromethane (3×100 ml). The organic phases were dried and evaporated, and the residue was chromatographed (silica/dichloromethane). The product was recrystallised from ethanol to give 0.8 g of the desired product, mp 228°-230° C., identical to that of Example A63.

reactant | N-(2,6-difluorophenyl)-5-methyl-1,2,4-triazole-3-sulphonamide | 5 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NNC(=N1)C | C9H8F2N4O2S
reactant | sodium hydride | 1.37 g | [H-].[Na+]
reactant | 4,6-dimethyl-2-chloropyrimidine | 2.6 g | CC1=NC(=NC(=C1)C)Cl | C6H7ClN2
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(2,6-difluorophenyl)-1-(4,6-dimethyl-2-pyrimidinyl)-5-methyl-1,2,4-triazole-3-sulphonamide | 0.8 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN(C(=N1)C)C1=NC(=CC(=N1)C)C | C15H14F2N6O2S
